US08247595B2
To a solution of 2.0 g of 6-bromo-1-hexene and 2.9 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of dimethyl sulfoxide, 0.5 g of sodium hydride (60% in oil) was added at room temperature. The mixture was heated to 60° C., stirred for 4 hours, and then allowed to stand near room temperature. To the reaction mixture, 10% hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 3.10 g of methyl 2-(3,3,3-trifluoropropylsulfonyl)-7-octenoate (hereinafter referred to as the present compound (20)).

reactant | 6-bromo-1-hexene | 2.0 g | BrCCCCC=C | C6H11Br
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.9 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 2-(3,3,3-trifluoropropylsulfonyl)-7-octenoate | 3.10 g | FC(CCS(=O)(=O)C(C(=O)OC)CCCCC=C)(F)F | C12H19F3O4S
